US06121258
Methyl N-[(4-methoxyphenyl)sulfonyl]-(2-hydroxyethyl)-homocysteine (9a):
D,L-Homocysteine (6.0 g, 44.3 mmol) in 2N NaOH (28.8 mL, 57.7 mmol, 1.3 equiv) is stirred at 0° C. under an argon atmosphere. A solution of 2-bromopropanol (6.66 g, 53.3 mol, 1.2 equiv) in ethanol (50 mL) is slowly added dropwise at 0° C. The resulting solution is stirred overnight at room temperature and then the mixture is acidified to pH~6 with 1 N HCl. The solvent is removed under reduced pressure to leave a thick oil. The penicillamine adduct is then dissolved in dioxane (100 mL) and water (100 mL) and stirred at room temperature. Triethylamine (13.5 g, 133.2 mmol, 3 equiv) is then added to the reaction mixture followed by 4-methoxyphenylsulfonyl chloride (10.0 g, 48.8 mmol, 1.1 equiv). The resulting homogeneous solution is stirred at room temperature for 18 hours and then acidified to pH~2 with 1N HCl. The solution is poured into water and extracted with methylene chloride. The organic extracts were dried (MgSO4) and concentrated to an oil under reduced pressure. The resulting oil is diluted in methanol (30 mL) and enough diazomethane in diethyl ether is added to form a yellow solution. The mixture is concentrated under reduced pressure to leave a colorless oil. Purification of the resulting methyl ester is accomplished by chromatography on silica gel using 1/1 hexane/EtOAc as the eluent. The desired product is obtained as a clear, colorless oil. MS (ESI): 364 (M+H+), 381 (M+NH4+).

reactant | D,L-Homocysteine | 44.3 mmol, 6.0 g | NC(CCS)C(=O)O | C4H9NO2S
reactant | NaOH | 57.7 mmol, 2N, 28.8 mL, 1.3 equiv | [OH-].[Na+]
reactant | 2-bromopropanol | 53.3 mol, 6.66 g, 1.2 equiv | BrC(CO)C | C3H7BrO
reactant | HCl | 1 N | Cl | ClH
reactant | penicillamine | N[C@@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | Triethylamine | 133.2 mmol, 13.5 g, 3 equiv | C(C)N(CC)CC | C6H15N
reactant | 4-methoxyphenylsulfonyl chloride | 48.8 mmol, 10.0 g, 1.1 equiv | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | water | 100 mL | O | H2O
product | Methyl N-[(4-methoxyphenyl)sulfonyl]-(2-hydroxyethyl)-homocysteine | C[C@](N(S(=O)(=O)C1=CC=C(C=C1)OC)CCO)(CCS)C(=O)O | C14H21NO6S2
